US09376442B2
4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-N-[(3R*,4R*)-4-hydroxy-1-propionylpyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-N-[(3R*,4R*)-4-hydroxypyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f5) and commercially available propionyl chloride the title compound is obtained as colorless solid.

reactant | 4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-N-[(3R*,4R*)-4-hydroxypyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CNC[C@H]2O
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-N-[(3R*,4R*)-4-hydroxy-1-propionylpyrrolidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CN(C[C@H]2O)C(CC)=O | C26H29N5O6
